US07179823B1
After a mixture of ethyl 3-[3-hydroxy-1-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl]-1H-pyrazol-4-yl]propionate (650 mg), 1 N aqueous sodium hydroxide solution (5 ml), tetrahydrofuran (5 ml), and ethanol (10 ml) was stirred at room temperature for three hours, 1 N hydrochloric acid (5 ml) was added to the mixture, which was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous sodium chloride solution, dried (MgSO4), and concentrated. The obtained colorless crystals were collected by filtration, and 3-[3-hydroxy-1-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy) benzyl]-1H-pyrazol-4-yl]propionic acid was obtained (560 mg, yield: 91%). This was recrystallized from tetrahydrofuran-hexane. Melting point: 197–198° C.

reactant | ethyl 3-[3-hydroxy-1-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl]-1H-pyrazol-4-yl]propionate | 650 mg | OC1=NN(C=C1CCC(=O)OCC)CC1=CC=C(C=C1)OCC=1N=C(OC1C)C1=CC=CC=C1 | C26H27N3O5
reactant | sodium hydroxide | 1 N, 5 ml | [OH-].[Na+]
reactant | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
reactant | hydrochloric acid | 1 N, 5 ml | Cl | ClH
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 3-[3-hydroxy-1-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy) benzyl]-1H-pyrazol-4-yl]propionic acid | yield: 91% | OC1=NN(C=C1CCC(=O)O)CC1=CC=C(C=C1)OCC=1N=C(OC1C)C1=CC=CC=C1 | C24H23N3O5
